US05886008
W. 5-Cyano-1-[3-(N-methylpyrrolidin-3-yl)indol-5-yl]-1H-benzimidazole
5-(4-Cyano-2-nitrophenyl)amino-3-(N-methylpyrrolidin-3-yl)-1H-indole was used. Reduction was by catalytic hydrogenation, the cyclization reaction used triethyl orthoformate/formic acid, and the cyclization reaction was heated for 2 hours. Chromatography using 9:1:0.5 [methylene chloride/methanol/ammonium hydroxide] afforded the title compound (22%) as a light yellow solid: Rf =0.35 in 9:1:0.1 [methylene chloride/methanol/ammonium hydroxide]; 13C NMR (CDCl3) δ 145.7, 143.3, 137.5, 136.5, 127.5, 126.8, 126.7, 125.4, 123.0, 120.3, 119.9, 118.5, 115.8, 112.7, 111.9, 105.7, 62.8, 56.3, 42.3, 35.0, 32.3; FAB LRMS (m/z, relative intensity) 342 (MH+).

reactant | 5-(4-Cyano-2-nitrophenyl)amino-3-(N-methylpyrrolidin-3-yl)-1H-indole | C(#N)C1=CC(=C(C=C1)NC=1C=C2C(=CNC2=CC1)C1CN(CC1)C)[N+](=O)[O-] | C20H19N5O2
reactant | triethyl orthoformate formic acid | C(OCC)(OCC)OCC.C(=O)O
reactant | methylene chloride methanol ammonium hydroxide | C(Cl)Cl.CO.[OH-].[NH4+]
product | 5-Cyano-1-[3-(N-methylpyrrolidin-3-yl)indol-5-yl]-1H-benzimidazole | 22% | C(#N)C1=CC2=C(N(C=N2)C=2C=C3C(=CNC3=CC2)C2CN(CC2)C)C=C1 | C21H19N5
